US07589120B2
1-(2,4-Dichlorophenyl)-2-(4-methoxyphenyl)ethanone
413 ml of a 2M solution of the sodium salt of hexamethyldisilazane in THF are cooled to −65° C. under a nitrogen atmosphere, 300 ml of THF are added, a solution of 55 g of 4-methoxyphenylacetic acid in 70 ml of THF is then added dropwise and the mixture is left stirring for 3 hours at a temperature of less than −45° C. 64.5 g of methyl 2,4-dichlorobenzoate are subsequently added dropwise and the mixture is left stirring while allowing the temperature to rise to 0° C. The reaction mixture is poured onto an ice/1 liter of 2N HCl mixture and extracted with ether, the organic phase is washed with a saturated NaHCO3 solution and dried over Na2SO4, and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, elution being carried out with heptane and then with the heptane/AcOEt mixture up to (90/10; v/v). 29 g of the expected compound are obtained.

reactant | sodium | [Na] | Na
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 4-methoxyphenylacetic acid | 55 g | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | methyl 2,4-dichlorobenzoate | 64.5 g | ClC1=C(C(=O)OC)C=CC(=C1)Cl | C8H6Cl2O2
reactant | HCl | 2N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 1-(2,4-Dichlorophenyl)-2-(4-methoxyphenyl)ethanone | 29 g | ClC1=C(C=CC(=C1)Cl)C(CC1=CC=C(C=C1)OC)=O | C15H12Cl2O2
